US07799822B2
Under an N2 atmosphere at −78° C., 2,2,2-trifluoroacetic anhydride (19.5 g, 12.9 mL, 93.0 mmol) was added to a solution of 4-phenylpiperidine (15.0 g, 93.0 mmol) and triethylamine (13 mL, 93.0 mmol) in CH2Cl2 (200 mL). The reaction was allowed to warm to RT over a period of 30 minutes. The mixture was partitioned between H2O and CH2Cl2, and the organic layer was concentrated under reduced pressure. Purification via silica gel chromatography using 7/3 hexanes/EtOAc gave 2,2,2-trifluoro-1-(4-phenylpiperidin-1-yl)ethanone as a clear oil (21.0 g, 88%). 1H NMR (400 MHz, CDCl3) δ 7.35-7.19 (m, 5H), 4.72-4.67 (m, 1H), 4.16-4.12 (m, 1H), 3.28-3.21 (m, 1H), 2.89-2.78 (m, 2H), 2.01-1.96 (m, 2H), 1.77-1.66 (m, 2H). LC/MS (10%-99% CH3CN (0.035% TFA)/H2O (0.05% TFA)), m/z: M+1 obs=258.1; tR=3.27 min.

reactant | 2,2,2-trifluoroacetic anhydride | 93.0 mmol, 12.9 mL, 19.5 g | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | 4-phenylpiperidine | 93.0 mmol, 15.0 g | C1(=CC=CC=C1)C1CCNCC1 | C11H15N
reactant | triethylamine | 93.0 mmol, 13 mL | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | 200 mL | C(Cl)Cl | CH2Cl2
product | 2,2,2-trifluoro-1-(4-phenylpiperidin-1-yl)ethanone | 21.0 g, 88% | FC(C(=O)N1CCC(CC1)C1=CC=CC=C1)(F)F | C13H14F3NO
